US06927221B2
Ethyl 7-cyano-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-carboxylate
Tetrakis(triphenylphosphine)palladium (0) (691 mg, 0.592 mmol) and zinc cyanide (402 mg, 3.25 mmol) were added to a solution of ethyl 7-chloro-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-carboxylate (1.1 g, 2.96 mmol) in N,N-dimethylformamide (10 mL), followed by stirring at 150° C. for four hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated, and the residue was purified by silica gel column chromatography (15% ethyl acetate/hexane), to give the title compound (1 g).

reactant | ethyl 7-chloro-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-carboxylate | 2.96 mmol, 1.1 g | ClC1=C(C(=NC=2N1N=C(C2C2=C(C=C(C=C2C)C)C)C)C)C(=O)OCC | C20H22ClN3O2
reactant | Water | O | H2O
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium | 0.592 mmol, 691 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 3.25 mmol, 402 mg | [C-]#N.[Zn+2].[C-]#N
product | Ethyl 7-cyano-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-carboxylate | 1 g | C(#N)C1=C(C(=NC=2N1N=C(C2C2=C(C=C(C=C2C)C)C)C)C)C(=O)OCC | C21H22N4O2
